US04963553
4,5-Dihydro-4-[(4-methyl-1-piperazinyl)acetyl]-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 1.3 g of N-methylpiperazine, 4.4 g of 4-(chloroacetyl)-4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile and 1.5 g of sodium carbonate in 75 ml of toluene was refluxed for 4 hours, then allowed to stand at room temperature overnight. The mixture was treated with 30 ml of 1N sodium hydroxide and the phases were separated. The aqueous phase was extracted twice with chloroform. The organic phases were combined, washed with water, dried, filtered and concentrated. The residue was heated to solution in 50 ml of ethyl acetate, filtered and cooled. The crystalline solid was collected, washed with ethyl acetate and hexane and dried, giving 1.8 g of the desired product, mp 178°-180° C.

reactant | N-methylpiperazine | 1.3 g | CN1CCNCC1 | C5H12N2
reactant | 4-(chloroacetyl)-4,5-dihydro-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 4.4 g | ClCC(=O)N1C=2N(C(=CC1)C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | C16H10ClF3N4O
reactant | sodium carbonate | 1.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-Dihydro-4-[(4-methyl-1-piperazinyl)acetyl]-7-[3-(trifluoromethyl)phenyl]pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 1.8 g | CN1CCN(CC1)CC(=O)N1C=2N(C(=CC1)C1=CC(=CC=C1)C(F)(F)F)N=CC2C#N | C21H21F3N6O
